US08211899B2
Cytosine (3.0 g, 27 mmol) and dimethyl-formamide-dimethylacetal (40 mL) was added to 100 mL mad apple-type flask with a magnetic stirrer, heated at 120° C. with constant stirring. Then, trifluoroacetic acid (0.2 mL) was added and the mixture was allowed to stir for 18 hr. The reacting solution was cooled to room temperature, followed by cooling in ice bath. The white precipitation was filtrated, dissolved in dichloromethane and ethanol, and changed to powders by hexane. The solids were collected and dried under vacuum. Thus, 4-N—(N,N-dimethylaminomethylene)-1-methylcytosine was obtained as white solids (3.6 g, yield, 74%). 1H-NMR (400 MHz, DMSO-d6)

reactant | Cytosine | 27 mmol, 3.0 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethyl-formamide-dimethylacetal | 40 mL | COC(N(C)C)OC | C5H13NO2
product | 4-N—(N,N-dimethylaminomethylene)-1-methylcytosine | CN(C)C=NC1=NC(N(C=C1)C)=O | C8H12N4O
